datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[N+:21](CC)(c1ccc([N+](=O)[O-])cc1)[H:20].O=C([O-])[C@H](c1ccccc1O)[NH:10]CC[NH2+][C@@H](C(=O)[O-])c1ccccc1O>>CC[N:21](CC)c1ccc([N+](=O)[O-])cc1.O=C([O-])[C@H](c1ccccc1O)[NH+:10](CC[NH2+][C@@H](C(=O)[O-])c1ccccc1O)[H:20] 10=20;20,21=21",
"CC(=O)CC(=O)[O:21][H:20].Oc1cccc2cc[n:10]cc12>>CC(=O)CC(=O)[O-:21].Oc1cccc2cc[n+:10]([H:20])cc12 10=20;20,21=21",
"CC1=CC(=O)Oc2cc([O-:10])ccc21.CCC(=O)C(CC[N+:21]1([H:20])CCCCC1)(c1ccccc1)c1ccccc1>>CC1=CC(=O)Oc2cc([O:10][H:20])ccc21.CCC(=O)C(CC[N:21]1CCCCC1)(c1ccccc1)c1ccccc1 10=20;20,21=21",
"C[n+]1ccc(-c2nc3ccccc3[n:21]2[H:20])cc1.[S-]c1cc[n:10]c2ccccc12>>C[n+]1ccc(-c2nc3ccccc3[n-:21]2)cc1.[S-]c1cc[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"C=CC[NH2+]CCCCCCCCCCC(=O)[O:21][H:20].Nc1ccc2c[n:10]c3ccccc3c2c1>>C=CC[NH2+]CCCCCCCCCCC(=O)[O-:21].Nc1ccc2c[n+:10]([H:20])c3ccccc3c2c1 10=20;20,21=21",
"Cc1nc([N-:10]S(=O)(=O)c2ccc(N)cc2)sc1C.O=S1(=O)C=C([O:21][H:20])c2ccccc21>>Cc1nc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])sc1C.O=S1(=O)C=C([O-:21])c2ccccc21 10=20;20,21=21",
"CCN(CC)C(=O)C[NH:10]CC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCN(CC)C(=O)C[NH+:10](CC)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C1CC([NH2:10])CCN1.CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C1CC([NH2+:10][H:20])CCN1.CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C#CC(C)(C)[N+:21](CC)(C(C)(C)C)[H:20].C1C[NH:10]CS1>>C#CC(C)(C)[N:21](CC)C(C)(C)C.C1C[NH+:10]([H:20])CS1 10=20;20,21=21",
"CCc1[nH]cc[n:10]1.Cn1cnc2c1[N:21]([H:20])C=NS2(=O)=O>>CCc1[nH]cc[n+:10]1[H:20].Cn1cnc2c1[N-:21]C=NS2(=O)=O 10=20;20,21=21",
"COc1ccc(CC(C)[NH:10]C)cc1OC.OCCOCC[NH2+:21][H:20]>>COc1ccc(CC(C)[NH+:10](C)[H:20])cc1OC.OCCOCC[NH2:21] 10=20;20,21=21",
"CCCCCCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].Cc1ccc([N+](C)(C)C)cc1[O-:10]>>CCCCCCCCCCCC[N:21](CC(C)O)CC(C)O.Cc1ccc([N+](C)(C)C)cc1[O:10][H:20] 10=20;20,21=21",
"CCCn1cc[n+:21]([H:20])c1C.CCc1[nH]c2ccccc2[n:10]1>>CCCn1cc[n:21]c1C.CCc1[nH]c2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"CC(C)(C)[NH:10]C1CCCCC1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)(C)[NH+:10](C1CCCCC1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Brc1cc2ccccc2[n+:21]([H:20])c1.Cc1cc(N)cc[n+]1[O-:10]>>Brc1cc2ccccc2[n:21]c1.Cc1cc(N)cc[n+]1[O:10][H:20] 10=20;20,21=21",
"C[Si](C)(C)OC1C[N+:21](C2CCCCC2)([H:20])C1.c1cc([NH2:10])c2[nH]ncc2c1>>C[Si](C)(C)OC1C[N:21](C2CCCCC2)C1.c1cc([NH2+:10][H:20])c2[nH]ncc2c1 10=20;20,21=21",
"CC[N+:21](CC)(CCOCCN(C)C)[H:20].Cc1c[nH]c(C)[n:10]1>>CC[N:21](CC)CCOCCN(C)C.Cc1c[nH]c(C)[n+:10]1[H:20] 10=20;20,21=21",
"Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH-:10].Cc1ccc2c(c1)C(CC[NH3+])C[NH+:21]2[H:20]>>Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH:10][H:20].Cc1ccc2c(c1)C(CC[NH3+])C[NH:21]2 10=20;20,21=21",
"O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O-:10].O=C1Oc2cc([O:21][H:20])ccc2C=C1c1nc2ccccc2s1>>O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O:10][H:20].O=C1Oc2cc([O-:21])ccc2C=C1c1nc2ccccc2s1 10=20;20,21=21",
"CC(C)c1ccccc1[NH2+:21][H:20].Cc1nc2ncncc2[n-:10]1>>CC(C)c1ccccc1[NH2:21].Cc1nc2ncncc2[n:10]1[H:20] 10=20;20,21=21",
"CC[NH+:21](Cc1ccccc1)[H:20].Oc1ccc(F)cc1C[N:10]1CCOCC1>>CC[NH:21]Cc1ccccc1.Oc1ccc(F)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1CNCCNCC[NH+:10]([H:20])C1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC[N:10](CC)CCCC(C)Nc1cc(OC)cc2cccnc12.CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[NH+]2CC)c1[O:21][H:20]>>CC[N+:10](CC)(CCCC(C)Nc1cc(OC)cc2cccnc12)[H:20].CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[NH+]2CC)c1[O-:21] 10=20;20,21=21",
"CC1(C)CCC(C2CCC(C)(C)[NH:10]2)N1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1(C)CCC(C2CCC(C)(C)[NH+:10]2[H:20])N1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O:21][H:20])c3[C@H](C2)N1C.Cc1ccc([O-:10])c(CO)c1>>COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O-:21])c3[C@H](C2)N1C.Cc1ccc([O:10][H:20])c(CO)c1 10=20;20,21=21",
"CC(C)=C=CC(C)(C)C(=O)[O-:10].COc1ccc(CC[NH2+:21][H:20])cc1OC>>CC(C)=C=CC(C)(C)C(=O)[O:10][H:20].COc1ccc(CC[NH2:21])cc1OC 10=20;20,21=21",
"C1CC[N:10](C2CC[NH2+]CC2)CC1.NS(=O)(=O)c1ccc(C(=O)[O:21][H:20])cc1>>C1CC[N+:10](C2CC[NH2+]CC2)([H:20])CC1.NS(=O)(=O)c1ccc(C(=O)[O-:21])cc1 10=20;20,21=21",
"C=CC[NH2+]CCC[NH:10]CC=C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=CC[NH2+]CCC[NH+:10](CC=C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCNc1c(C)cc(-c2ccccc2)n[n+:21]1[H:20].Cc1ccnc([N-:10]S(=O)(=O)c2ccc(N)cc2)n1>>CCCCNc1c(C)cc(-c2ccccc2)n[n:21]1.Cc1ccnc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])n1 10=20;20,21=21",
"Clc1ccc([O:21][H:20])c(CN2CCOCC2)c1.c1coc(-c2ccc[n:10]c2)c1>>Clc1ccc([O-:21])c(CN2CCOCC2)c1.c1coc(-c2ccc[n+:10]([H:20])c2)c1 10=20;20,21=21",
"CC(O)[C@@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(O)[C@@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"COc1ccc([N:21](C=S)[H:20])cc1.C[NH:10]CC(=O)NCCc1c[nH]cn1>>COc1ccc([N-:21]C=S)cc1.C[NH+:10](CC(=O)NCCc1c[nH]cn1)[H:20] 10=20;20,21=21",
